Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[H:10][H:12].[O:1]=[C:2]([C:3]([C:4](=[C:5]=[O:6])[H:11])([H:8])[H:9])[H:7],73.95481662879001
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[O:4][C:6]([H:13])([H:14])[C:5]1)([H:10])[H:11])([H:7])([H:8])[H:9],88.57861993153509
[C:1]([O:7][C:6]([C:5]([O:4]/[C:3](=[N:2]\[H:16])[H:11])([H:12])[H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],70.80419289770202
[O:1]([C@:2]1([H:9])[N+:5]#[C:4][C:3]([H:10])([H:11])[C:6]1=[C-:7][H:12])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],1.8875921841101828
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O+:4]=[C-:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([C:7]([H:19])([H:20])[H:21])([H:16])([H:17])[H:18],71.0053669515092
[C:1]([C@@:2]([O:3][H:12])(/[C:4]([O:5][H:13])=[C:6](/[O:7][H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10],47.524082769528384
[C:1]([O:2]/[C:3]([C:4]([H:9])([H:10])[H:11])=[N:5]/[H:12])([H:6])([H:7])[H:8]>>[C:1]([C:4]([H:9])([H:10])[H:11])([H:6])([H:7])[H:8].[O:2]=[C:3]=[N:5][H:12],91.91338787763179
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C:3]([H:11])([H:12])[C:4]([H:13])=[C:7]1[C@:6]2([O:5][H:15])[H:14])([H:8])([H:9])[H:10],99.6815841696118
[H:7][H:10].[O:1]=[N:2][C:3]12[C:4]([H:8])([H:9])[N:5]1[C:6]2([H:11])[H:12]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],39.4197173989712
[O:1]1[C:2]([H:8])=[C:3]([H:9])[N:5]2[C:4]([H:10])([H:11])[O:7][C@@:6]12[H:12]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],26.5599100410042
[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C-:2]([O+:3]=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:10])([H:7])([H:8])[H:9].[C:6]([H:11])([H:16])([H:17])[H:18],73.3609768232882
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[O:5])[H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([H:10])([H:11])[H:12])[H:9])([H:6])[H:8].[C:4](=[O:5])([H:7])[H:13],70.7833829645481
[C:2](=[C:3]=[O:4])([H:8])[H:9].[O:1]([C:5]#[N:6])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7],83.4254196021953
[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[O:3]/[C:4](=[N:5]/[H:13])[C:6][N:7]1[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],48.4447164841134
[C:1]([C@@:2]([O:3][H:11])([C:4](=[C:5])[H:12])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],1.3052820406798844
[O:1]=[C:2]=[C:3]([C:4]([C:5]([O:6][H:7])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],75.3430825404681
[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1>>[O:1]1[C@@:3]2([H:8])[C-:2]=[N+:7]=[C:6]([H:11])[N:5]([H:10])[C@@:4]12[H:9],115.90269556858999
[O:1]=[C:2]([C:3]([O:4][C:5]1([H:10])[C:6]([H:12])=[C:7]1[H:13])([H:8])[H:9])[H:11]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13],39.312956272246204
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C-:3][C:4]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10].[C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:11])([H:15])[H:16],70.9963945040755
[C-:1]([C:2]([C:3](=[C:5]=[C+:6][H:16])[H:12])([H:10])[H:11])([H:7])[H:9].[C:4]([H:8])([H:13])([H:14])[H:15]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],11.022719030026408
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C:6]([H:11])([H:12])[C:5]([H:10])=[C:7]1[H:13],62.3921753786189
[C:1]1([H:7])([H:8])[C:2]([C:6](=[C:5]([H:12])[H:13])[H:14])([H:9])[C:3]([H:10])([H:11])[O:4]1>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14],66.5094329318579
[C:1]([O:2][O:7][C@:6]1([H:13])[C:3](=[O:4])[C:5]1([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],7.696585933769995
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])/[C:5](=[C:6](\[O:7][H:14])[H:17])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:15],68.75784031775022
